*$
* TLV07
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: TLV07
* Date: 26OCT2022
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A
* EVM Users Guide:  N/A
* Datasheet: SBOS832A -JULY 2017-REVISED AUGUST 2017
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.3
*
*****************************************************************************
*
* Updates:
*
* Final 1.3
* Updated Vos drift and Overload recovery.
*
* Final 1.2
* Updated with unique subckt name, Current Noise, Vos drift 
* and edits in claw block
*
* Final 1.1
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
*****************************************************************************
.SUBCKT TLV07 IN+ IN- VCC VEE OUT  
*****************************************************************************
C_C1            N5695054 N5695064  1.45P   
C_C10           N6432110 N6432120  69.2U   
C_C108          N6409567 MID  33.16F   
C_C11           MID N6432786  410P   
C_C113          N6382700 N6382690  7.07P   
C_C123          N5698135 N5296927  2.27N   
C_C13           N5302951 0  1F   
C_C131          N6382680 N6382670  7.07P   
C_C134          N5695074 N5695084  1.45P   
C_C135          N6409601 MID  18.72F   
C_C136          N6409633 MID  3.183F   
C_C137          N6409663 MID  3.183F   
C_C138          MID N6432798  1.14P   
C_C139          N6432086 N6432078  318.3F   
C_C14           0 N5302475  10U   
C_C15           N5302991 0  1F   
C_C16           N5301567 MID  1F   
C_C17           N5302227 MID  1F   
C_C18           N5301581 MID  1F   
C_C19           N5302261 MID  1F   
C_C20           N5301595 MID  1F   
C_C21           N5302295 MID  1F   
C_C22           MID N5301537  1F   
C_C23           N5303823 MID  1F   
C_C24           N5304615 MID  1F   
C_C25           N5304181 MID  1P   
C_C26           N5304435 MID  1P   
C_C27           SW_OL_TLV07 MID  1P   
C_C29           VIMON MID  1N   
C_C30           VOUT_S MID  1N   
C_C4            N5299343 MID  1F   
C_C5            CLAMP MID  1.243U   
C_C70           VCLP MID  100P   
C_C_COM0        ESDP MID  3P   
C_C_COM1        MID ESDN  3P   
C_C_DIFF        ESDN ESDP  3P   
E_E1            MID 0 N5302475 0 1
E_E3            N5297811 MID OUT MID 1
E_E4            N5297995 MID CL_CLAMP MID 1
G_G1            N5695054 MID ESDP MID -56.36U
G_G103          N6382680 MID N6382690 MID -1
G_G104          N5641758 MID N6382670 MID -5.55556K
G_G105          N5695074 MID N5695064 MID -1
G_G106          N5296841 MID N5695084 MID -627.73
G_G107          N6409633 MID N6409601 MID -1U
G_G108          N6409663 MID N6409633 MID -1U
G_G109          CLAW_CLAMP MID N6409663 MID -1M
G_G110          N6432078 MID N6432256 MID -1
G_G18           VCC_B 0 VCC 0 -1
G_G19           VEE_B 0 VEE 0 -1
G_G2            N5297653 N5297649 N5296841 MID -1M
G_G20           VCC_CLP MID N5303823 MID -1M
G_G21           VEE_CLP MID N5304615 MID -1M
G_G22           N5304315 MID N5304303 MID -1
G_G23           N5304383 MID N5304405 MID -1
G_G39           N6432110 MID CL_CLAMP N5298565 -478.463
G_G5            N5297697 N5297689 N5641758 N5296927 -1M
G_G6            VSENSE MID CLAMP MID -1M
G_G79           N6409567 MID VSENSE MID -1U
G_G80           N6409601 MID N6409567 MID -1U
G_G84           N6432236 MID N6432218 MID -1
G_G85           N6382700 MID VCC_B MID -126.2U
G_G86           N6432196 MID N6432120 MID -139.13
G_G96           N5698135 MID VEE_B MID -729.4M
G_G97           CL_CLAMP MID CLAW_CLAMP MID -1M
I_I_B           N5298577 MID DC 40P  
I_I_OS          ESDN MID DC 36P  
I_I_Q           VCC VEE DC 930U  
R_R15           N5297689 N5297653 R_NOISELESS 1M
R_R16           N5297697 N5297689 R_NOISELESS 1K
R_R167          N5297995 VCLP R_NOISELESS 100
R_R17           N5300247 ESDN R_NOISELESS 1M
R_R18           MID N5298335 R_NOISELESS 1T
R_R19           MID N5300937 R_NOISELESS 1T
R_R20           N5299325 MID R_NOISELESS 1
R_R21           N5299343 N5299325 R_NOISELESS 1M
R_R22           MID N5298735 R_NOISELESS 1MEG
R_R23           MID CLAMP R_NOISELESS 1MEG
R_R24           MID VSENSE R_NOISELESS 1K
R_R266          MID N6409567 R_NOISELESS 1MEG
R_R273          N6382690 N6382700 R_NOISELESS 100MEG
R_R274          MID N6382690 R_NOISELESS 502.513K
R_R275          MID N6382700 R_NOISELESS 1
R_R297          N5296927 N5698135 R_NOISELESS 100MEG
R_R300          MID N5296927 R_NOISELESS 87.5
R_R301          MID N5698135 R_NOISELESS 1
R_R306          MID CL_CLAMP R_NOISELESS 1K
R_R318          N6382670 N6382680 R_NOISELESS 100MEG
R_R319          MID N6382670 R_NOISELESS 18K
R_R320          MID N6382680 R_NOISELESS 1
R_R328          N5695084 N5695074 R_NOISELESS 100MEG
R_R329          MID N5695074 R_NOISELESS 1
R_R330          MID N5695084 R_NOISELESS 148.87K
R_R331          MID N5296841 R_NOISELESS 1
R_R332          MID N5641758 R_NOISELESS 1
R_R333          MID N6409601 R_NOISELESS 1MEG
R_R334          MID N6409633 R_NOISELESS 1MEG
R_R335          MID N6409663 R_NOISELESS 1MEG
R_R336          MID CLAW_CLAMP R_NOISELESS 1K
R_R337          N6432256 N6432236 R_NOISELESS 21.82K
R_R338          MID N6432236 R_NOISELESS 1
R_R339          N6432086 N6432078 R_NOISELESS 10K
R_R34           N6432120 N6432110 R_NOISELESS 10K
R_R340          N6432798 N6432256 R_NOISELESS 10K
R_R341          MID N6432086 R_NOISELESS 5
R_R342          MID N6432078 R_NOISELESS 1
R_R35           MID N6432110 R_NOISELESS 1
R_R36           MID N6432120 R_NOISELESS 72.395
R_R37           MID N6432196 R_NOISELESS 1
R_R38           N6432218 N6432196 R_NOISELESS 2.21MEG
R_R39           N6432786 N6432218 R_NOISELESS 10K
R_R43           MID N6432388 R_NOISELESS 1
R_R46           VCC_B 0 R_NOISELESS 1
R_R47           VCC_B N5302951 R_NOISELESS 1M
R_R48           N5302951 N5302475 R_NOISELESS 1MEG
R_R49           N5302475 0 R_NOISELESS 1T
R_R5            MID N5695054 R_NOISELESS 1
R_R50           N5302475 N5302991 R_NOISELESS 1MEG
R_R51           N5302991 VEE_B R_NOISELESS 1M
R_R52           VEE_B 0 R_NOISELESS 1
R_R53           VCC_CLP MID R_NOISELESS 1T
R_R54           N5301563 MID R_NOISELESS 1
R_R55           N5301567 N5301563 R_NOISELESS 1M
R_R56           VEE_CLP MID R_NOISELESS 1T
R_R57           N5302333 MID R_NOISELESS 1
R_R58           N5302227 N5302333 R_NOISELESS 1M
R_R59           N5301533 MID R_NOISELESS 1T
R_R6            N5695064 N5695054 R_NOISELESS 100MEG
R_R60           N5301577 MID R_NOISELESS 1
R_R61           N5301581 N5301577 R_NOISELESS 1M
R_R62           N5302261 N5302369 R_NOISELESS 1M
R_R63           N5302495 MID R_NOISELESS 1T
R_R64           N5302369 MID R_NOISELESS 1
R_R65           N5301543 MID R_NOISELESS 1T
R_R66           N5301591 MID R_NOISELESS 1
R_R67           N5301595 N5301591 R_NOISELESS 1M
R_R68           N5302295 N5302405 R_NOISELESS 1M
R_R69           N5302499 MID R_NOISELESS 1T
R_R7            MID N5695064 R_NOISELESS 1.81MEG
R_R70           N5302405 MID R_NOISELESS 1
R_R71           N5301537 VSENSE R_NOISELESS 1M
R_R72           VCC_B N5303741 R_NOISELESS 1K
R_R73           N5303741 N5303823 R_NOISELESS 1M
R_R74           N5304593 VEE_B R_NOISELESS 1K
R_R75           N5304593 N5304615 R_NOISELESS 1M
R_R76           MID VCC_CLP R_NOISELESS 1K
R_R77           VEE_CLP MID R_NOISELESS 1K
R_R78           N5304383 MID R_NOISELESS 1
R_R79           N5304315 MID R_NOISELESS 1
R_R8            N5297653 N5297649 R_NOISELESS 1K
R_R80           V11 N5304181 R_NOISELESS 100
R_R81           V12 N5304435 R_NOISELESS 100
R_R82           N5304195 MID R_NOISELESS 1
R_R83           N5304195 SW_OL_TLV07 R_NOISELESS 100
R_RDUMMY        MID N5298565 R_NOISELESS 20K
R_RS_INN        IN- ESDN R_NOISELESS 10M
R_RS_INP        IN+ ESDP R_NOISELESS 10M
R_RX            N5298565 N6432388 R_NOISELESS 200K
R_RX1           MID N5298043 R_NOISELESS 1T
R_RX2           VIMON N5298043 R_NOISELESS 100
R_RX3           MID N5297811 R_NOISELESS 1T
R_RX4           VOUT_S N5297811 R_NOISELESS 100
R_R_CM1         ESDP MID R_NOISELESS 1T
R_R_CM2         MID ESDN R_NOISELESS 1T
V_VCM_MAX       N5298335 VCC_B -2
V_VCM_MIN       N5300937 VEE_B -100M
V_V_GRN         N5302499 MID -67
V_V_GRP         N5301543 MID 69
V_V_ISCN        N5302495 MID -77
V_V_ISCP        N5301533 MID 79
V_V_ORN         N5304303 VCLP -700M
V_V_ORP         N5304405 VCLP 800M
X_H1            N5298565 OUT N5298043 MID BLOCK_DC_H1_TLV07 
X_H2            N5303803 N5304383 V12 MID BLOCK_DC_H2_TLV07 
X_H3            N5303747 N5304315 V11 MID BLOCK_DC_H3_TLV07 
X_S1            N5303747 CLAMP N5303747 CLAMP BLOCK_DC_S1_TLV07 
X_S2            CLAMP N5303803 CLAMP N5303803 BLOCK_DC_S2_TLV07 
X_U10         VCC_CLP VEE_CLP VOUT_S MID N5301563 N5302333 CLAMP_AMP_LO_TLV07 PARAMS:
+  G=1
X_U11         N5301533 N5302495 VIMON MID N5301577 N5302369 CLAMP_AMP_LO_TLV07
+  PARAMS: G=1
X_U12         N5301543 N5302499 N5301537 MID N5301591 N5302405 CLAMP_AMP_HI_TLV07
+  PARAMS: G=10
X_U16         MID N5304195 N5304181 N5304435 OL_SENSE_TLV07
X_U18         VIMON MID N5303741 VCC_B CLAWP_TLV07
X_U19         MID VIMON VEE_B N5304593 CLAWN_TLV07
X_U20         ESDN ESDP ESD_BB_TLV07 
X_U21         OUT VCC VEE ESD_OUT_TLV07 
X_U22         N5301581 N5302261 CL_CLAMP MID CL_SRC_TLV07 PARAMS: GAIN=1 IPOS=0.276
+  INEG=-0.276
X_U23         N5301595 N5302295 CLAMP MID GR_SRC_TLV07 PARAMS: GAIN=1 IPOS=1.02
+  INEG=-1.02
X_U25         SW_OL_TLV07 MID N6432110 N6432120 SW_OL_TLV07 
X_U26         VIMON MID VCC MID IQ_SRC_TLV07 PARAMS: GAIN=1E-3
X_U27         MID VIMON MID VEE IQ_SRC_TLV07 PARAMS: GAIN=1E-3
X_U30         N5299343 N5300247 MID N5298735 AOL_1_TLV07 PARAMS: GAIN=1E-4 IPOS=.5
+  INEG=-.5
X_U31         N5298735 MID MID CLAMP AOL_2_TLV07 PARAMS: GAIN=88.595E-3 IPOS=0.51
+  INEG=-0.51
X_U32         N6432086 MID MID N6432388 ZO_SRC_TLV07 PARAMS: GAIN=2E3 IPOS=7.2E3
+  INEG=-7.2E3
X_U35         N5301567 N5302227 CLAW_CLAMP MID CLAW_SRC_TLV07 PARAMS: GAIN=1
+  IPOS=0.138 INEG=-0.138
X_U39         MID N5298577 FEMT_TLV07 PARAMS: FLWF=1E-3 GLFF=0.0154 RNVF=12078
X_U4         N5297649 N5298577 VOS_DRIFT_TLV07 PARAMS: DC=30.96E-6 POL=1
+  DRIFT=0.9E-06
X_U43         ESDP N5298577 VNSE_TLV07 PARAMS: FLW=0.3 GLF=0.2594 RNV=427.424
X_U44         ESDN MID FEMT_TLV07 PARAMS: FLWF=1E-3 GLFF=0.0154 RNVF=12078
X_U5         ESDN ESDP VCC VEE ESD_IN_TLV07 
X_U6         N5297697 MID N5299325 MID N5298335 N5300937 VCM_CLAMP_TLV07 PARAMS:
+  GAIN=1
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.ENDS  TLV07
*
.SUBCKT BLOCK_DC_H1_TLV07 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_TLV07
*
.SUBCKT BLOCK_DC_H2_TLV07 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_TLV07
*
.SUBCKT BLOCK_DC_H3_TLV07 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_TLV07
*
.SUBCKT BLOCK_DC_S1_TLV07 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S1_TLV07
*
.SUBCKT BLOCK_DC_S2_TLV07 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S2_TLV07
*
.SUBCKT AOL_1_TLV07 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-4 IPOS=.5 INEG=-.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_TLV07
*
.SUBCKT AOL_2_TLV07 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=88.595E-3 IPOS=0.51 INEG=-0.51
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_TLV07
*
.SUBCKT CLAMP_AMP_HI_TLV07 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_TLV07
*
.SUBCKT CLAMP_AMP_LO_TLV07 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_TLV07
*
.SUBCKT CLAWN_TLV07 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,      1E-5)
+(10.6,   8E-4)
+(13.9, 1.1E-3)
+(14.7, 1.2E-3)
+(15.8, 1.4E-3)
+(16.3, 1.6E-3)
+(16.5, 1.8E-3)
+(16.8, 2.2E-3)
+(17,   2.9E-3)
.ENDS  CLAWN_TLV07
*
.SUBCKT CLAWP_TLV07 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,      1E-5)
+(9,    1.2E-3)
+(15.1, 2.3E-3)
+(16.2, 2.6E-3)
+(16.7, 2.8E-3)
+(17.2,   3E-3)
+(17.6, 3.2E-3)
+(17.8, 3.4E-3)
+(18,   3.6E-3)
.ENDS  CLAWP_TLV07
*
.SUBCKT CLAW_SRC_TLV07 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.138 INEG=-0.138
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_TLV07
*
.SUBCKT CL_SRC_TLV07 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.276 INEG=-0.276
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_TLV07
*
.SUBCKT ESD_BB_TLV07 ESDN ESDP
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=700E-3 VOFF=650E-3)
S1 ESDN ESDP ESDN ESDP ESD_SW
S2 ESDP ESDN ESDP ESDN ESD_SW
.ENDS  ESD_BB_TLV07
*
.SUBCKT ESD_IN_TLV07 ESDN ESDP VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS  ESD_IN_TLV07
*
.SUBCKT ESD_OUT_TLV07 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS  ESD_OUT_TLV07
*
.SUBCKT FEMT_TLV07 1 2 PARAMS: FLWF=1E-3 GLFF=0.0154 RNVF=12078
.MODEL DVNF D (KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16)
D1 7 0 DVNF 
D2 8 0 DVNF 
E1 3 6 7 8 {GLFF}
E2 6 4 5 0 10
G1 1 2 3 4 1E-6
I1 0 7 10E-3
I2 0 8 10E-3
R1 3 0 1E9 
R2 3 0 1E9 
R3 3 6 1E9 
R4 5 0 {RNVF} 
R5 5 0 {RNVF} 
R6 3 4 1E9 
R7 4 0 1E9 
.ENDS  FEMT_TLV07
*
.SUBCKT GR_SRC_TLV07 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=1.02 INEG=-1.02
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_TLV07
*
.SUBCKT IQ_SRC_TLV07 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_TLV07
*
.SUBCKT OL_SENSE_TLV07 COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS  OL_SENSE_TLV07
*
.SUBCKT SW_OL_TLV07 SW_OL_TLV07 MID CAP_L CAP_R
.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E12 VON=900E-3 VOFF=800E-3)
S1 CAP_L CAP_R SW_OL_TLV07 MID OL_SW
.ENDS  SW_OL_TLV07
*
.SUBCKT VCM_CLAMP_TLV07 VIN+ VIN- IOUT- IOUT+ VP+ VP- PARAMS: GAIN=1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_TLV07
*
.SUBCKT VNSE_TLV07 1 2 PARAMS: FLW=0.3 GLF=0.2594 RNV=427.424
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_TLV07
*
.SUBCKT VOS_DRIFT_TLV07 VOS+ VOS- PARAMS: DC=30.96E-6 POL=1 DRIFT=0.9E-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_TLV07
*
.SUBCKT ZO_SRC_TLV07 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=2E3 IPOS=7.2E3 INEG=-7.2E3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_TLV07
*
